US04643993
N-Isopropyl-N'-[4-(imidazol-4-yl)-phenyl]-amidino-sulfonic acid
A solution of 1-methylthio-1-isopropylimino-methanesulfonate (6.8 g) in acetonitrile (150 ml) was added slowly to a solution of 4-(4-amino phenyl)-1-H-imidazole (5 g) in acetonitrile (250 ml) at room temperature. The reaction mixture was stirred overnight, and the product which crystallized out was collected by filtration to give the crude title compound, which was purified via its maleate in 95% ethanol. M.p. 209° C. (dec.).

reactant | 1-methylthio-1-isopropylimino-methanesulfonate | 6.8 g | CSC(S(=O)(=O)[O-])=NC(C)C
reactant | 4-(4-amino phenyl)-1-H-imidazole | 5 g | NC1=CC=C(C=C1)C=1N=CNC1 | C9H9N3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-Isopropyl-N'-[4-(imidazol-4-yl)-phenyl]-amidino-sulfonic acid | C(C)(C)NC(=NC1=CC=C(C=C1)C=1N=CNC1)S(=O)(=O)O | C13H16N4O3S
